US07951810B2
Step d: {(2R,3S,5R)-5-[4-(benzoylamino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate (I-128)
To a solution of ((2R,3S,5R)-5-[4-(benzoylamino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methyl sulfamate (0.292 g, 0.533 mmol) in 5.4 mL pyridine/THF (1:1) was added approximately 5 drops of hydrofluoridic acid in pyridine. The solution was stirred at r.t. overnight, quenched by slowly adding saturated aq NaHCO3 (20 mL) and extracted with DCM (2×25 mL) and EtOAc (25 mL). The organics were combined, dried (Na2SO4), filtered, and concentrated. The crude material was purified by flash chromatography (1 to 10% MeOH/DCM) to afford the final compound (0.177 g, 77%).

reactant | ((2R,3S,5R)-5-[4-(benzoylamino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methyl sulfamate | 0.533 mmol, 0.292 g | S(N)(OC[C@H]1O[C@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)N1C=CC2=C1N=CN=C2NC(C2=CC=CC=C2)=O)(=O)=O | C24H33N5O6SSi
solvent | pyridine THF | 5.4 mL | N1=CC=CC=C1.C1CCOC1
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | {(2R,3S,5R)-5-[4-(benzoylamino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate | 0.177 g, 77% | S(N)(OC[C@H]1O[C@H](C[C@@H]1O)N1C=CC2=C1N=CN=C2NC(C2=CC=CC=C2)=O)(=O)=O | C18H19N5O6S
